US09402841B2
Step C: (S)-tert-butyl 3-((8-chloro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To (S)-tert-butyl 3-((8-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (130 mg, 1.61 mmol) in dioxane (10 mL) was added CDI (78 mg, 0.48 mmol). The resulting mixture was heated to reflux for 2 hours and was then cooled and concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (50 mg, 35%). ESI-MS m/z [M+H-Boc]+ 332.2.

reactant | (S)-tert-butyl 3-((8-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.61 mmol, 130 mg | ClC=1C=CC=C2C=C(N=C(C12)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H24ClN5O3
reactant | CDI | 0.48 mmol, 78 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 3-((8-chloro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 50 mg, 35% | ClC=1C=CC=C2C=C(N=C(C12)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C20H22ClN5O4
